US07932262B2
Step 1. Preparation of 2-Chloro-8-(1-isopropylpiperidin-4-yloxy)quinazoline
To a 0.30M solution of triphenylphosphine (1.5 eq) in THF was added di-tert-butylazodicarboxylate (1.5 eq). The mixture was stirred 15 min at ambient temperature. 4-Hydroxy-1-isopropylpiperidine (4.0 eq) was added. The mixture was stirred 15 min at ambient temperature. 2-Chloroquinazolin-8-ol (1.0 eq) was added. The mixture was stirred an additional 2 h. The crude mixture was concentrated, purified by flash chromatography (EtOAc then 90:10:1 DCM:MeOH:NH4OH), and concentrated to give the desired product in 88% yield. ES/MS m/z 306 (MH+).

reactant | triphenylphosphine | 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 1.5 eq | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-Hydroxy-1-isopropylpiperidine | 4.0 eq | OC1CCN(CC1)C(C)C | C8H17NO
reactant | 2-Chloroquinazolin-8-ol | 1.0 eq | ClC1=NC2=C(C=CC=C2C=N1)O | C8H5ClN2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Chloro-8-(1-isopropylpiperidin-4-yloxy)quinazoline | 88% yield | ClC1=NC2=C(C=CC=C2C=N1)OC1CCN(CC1)C(C)C | C16H20ClN3O
